US07838499B2
Preparation of N-(4-(2-chloro-5-((2S,3S,4R,5R,6R)-3,4,5-tris(benzyloxy)-6-(benzyloxymethyl)tetrahydro-2H-pyran-2-yl)benzyl)benzyl)-N-cyclopropylacetamide (Intermediate AR)
To a solution of acetic acid (0.11 g) and Et3N (0.14 mL) in CH2Cl2 (1 mL) at room temperature, EDCI (96 mg) and HOBt (68 mg) was added. The mixture was stirred for 30 min at room temperature. A solution of N-(4-(2-chloro-5-((2S,3S,4R,5R,6R)-3,4,5-tris(benzyloxy)-6-(benzyloxymethyl)tetrahydro-2H-pyran-2-yl)benzyl)benzyl)cyclopropanamine (Intermediate AQ) (40 mg) in CH2Cl2 (0.2 mL) was added dropwise. The reaction was monitored by LC-MS. After the starting material was consumed, CH2Cl2 was added to dilute the solution. The resulting mixture was then washed with H2O, 1N HCl, aqueous NaHCO3 and brine. CH2Cl2 was removed under reduced pressure, and the crude product was purified by preparative TLC to give intermediate AR (20 mg). MS ESI (m/z): 836 (M+H)+, 853 (M+NH4)+.

reactant | acetic acid | 0.11 g | C(C)(=O)O | C2H4O2
reactant | EDCI | 96 mg | CCN=C=NCCCN(C)C | C8H17N3
reactant | HOBt | 68 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | N-(4-(2-chloro-5-((2S,3S,4R,5R,6R)-3,4,5-tris(benzyloxy)-6-(benzyloxymethyl)tetrahydro-2H-pyran-2-yl)benzyl)benzyl)cyclopropanamine | 40 mg | ClC1=C(CC2=CC=C(CNC3CC3)C=C2)C=C(C=C1)[C@@H]1O[C@@H]([C@H]([C@@H]([C@H]1OCC1=CC=CC=C1)OCC1=CC=CC=C1)OCC1=CC=CC=C1)COCC1=CC=CC=C1 | C51H52ClNO5
solvent | CH2Cl2 | 1 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 0.2 mL | C(Cl)Cl | CH2Cl2
solvent | Et3N | 0.14 mL | CCN(CC)CC | C6H15N
product | N-(4-(2-chloro-5-((2S,3S,4R,5R,6R)-3,4,5-tris(benzyloxy)-6-(benzyloxymethyl)tetrahydro-2H-pyran-2-yl)benzyl)benzyl)-N-cyclopropylacetamide | ClC1=C(CC2=CC=C(CN(C(C)=O)C3CC3)C=C2)C=C(C=C1)[C@@H]1O[C@@H]([C@H]([C@@H]([C@H]1OCC1=CC=CC=C1)OCC1=CC=CC=C1)OCC1=CC=CC=C1)COCC1=CC=CC=C1 | C53H54ClNO6
